US03984549
544 Mg. of 3-(2-pyridyl) pyrido (1,2-a) 1,3,5-triazine-2,4-dithione is combined with p-chloro phenylisocyanate and 10 ml. of acetonitrile. The reaction mixture is heated at 70° C. for 1 hour with a precipitate appearing after 1/2 hour. The reaction mixture is allowed to cool to room temperature with stirring. The solid material is filtered, washed twice with acetone, once with ether and dried in vacuo affording 3-(4-chlorophenyl) pyrido (1,2-a) 1,3,5-triazine-2-one-4-thione m.p. 209°-212° C.

reactant | 3-(2-pyridyl) pyrido (1,2-a) 1,3,5-triazine-2,4-dithione | N1=C(C=CC=C1)N1C(N=C2N(C1=S)C=CC=C2)=S | C12H8N4S2
reactant | p-chloro phenylisocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(4-chlorophenyl) pyrido (1,2-a) 1,3,5-triazine-2-one-4-thione | ClC1=CC=C(C=C1)N1C(N=C2N(C1=S)C=CC=C2)=O | C13H8ClN3OS
